US07109354B2
d) 4-(2-Trityl-2H-tetrazol-5-yl)-butylamine
To a solution of 2-[4-(2-trityl-2H-tetrazol-5-yl)-butyl]-isoindole-1,3-dione (175 mg, 0.313 mmol) in 2-propanol/THF (2:1, 3.0 mL) was added hydrazine (30 mL, 0.939 mmol). The solution was stirred at ambient temperature for 16 h. White solid was filtered off and washed with DCM (5×). The filtrate and the washings were combined, concentrated, dissolved in DCM, washed with H2O (2×) and brine, dried over Na2SO4, and concentrated to give the title compound (131 mg, 97% yield) as a pale yellow oil.

reactant | 2-[4-(2-trityl-2H-tetrazol-5-yl)-butyl]-isoindole-1,3-dione | 0.313 mmol, 175 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(N=N1)CCCCN1C(C2=CC=CC=C2C1=O)=O | C32H27N5O2
reactant | hydrazine | 0.939 mmol, 30 mL | NN | H4N2
solvent | 2-propanol THF | 3.0 mL | CC(C)O.C1CCOC1
product | 4-(2-Trityl-2H-tetrazol-5-yl)-butylamine | 131 mg, 97% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(N=N1)CCCCN | C24H25N5
